US06747023B1
Thiazolo[4,5-c]pyridine
In formic acid (60 ml) was dissolved 3-(tert-butoxyamino)-4-mercaptopyridine (9.20 g), followed by heating under reflux for 4 hours. After the reaction mixture was concentrated under reduced pressure and a 5N aqueous solution (100 ml) of potassium hydroxide was added to the residue, the resulting mixture was extracted with ether. The organic layer was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. Diethyl ether was added to the residue and the solid so precipitated was collected by filtration, whereby the title compound was obtained as a colorless solid (3.97 g).

reactant | 3-(tert-butoxyamino)-4-mercaptopyridine | 9.20 g | C(C)(C)(C)ONC=1C=NC=CC1S | C9H14N2OS
reactant | formic acid | 60 ml | C(=O)O | CH2O2
product | Thiazolo[4,5-c]pyridine | 3.97 g | S1C=NC=2C=NC=CC21 | C6H4N2S
